US05861407
Step 2: (E)-Benzyl-4-(2-(1-methylindol-5-yl)ethenyl)-1,2,3,6-tetrahydropyridine
The title compound was prepared from (E)-4-(1-methylindol-5-yl)ethenylpyridine by an analogous procedure to Example 1, m.p. 137.5°-138.5° C. (MeOH); (Found: C, 84.17; H, 7.11; N, 8.48. C23H24N2 requires C, 84.11; H, 7.37; N, 8.53%); δH (CDCl3) 2.45 (2H, br s, tetrahydropyridinyl CH2), 2.68 (2H, m, tetrahydropyridinyl CH2), 3.13 (2H, br s, tetrahydropyridinyl CH2), 3.63 (2H, s, PhCH2N), 3.77 (3H, s, N-CH3), 5.77 (1H, br s, tetrahydropyridinyl CH), 6.43 (1H, m, 3'-H), 6.58 (1H, d, J 16.1 Hz, CH=CHAr), 6.77 (1H, d, J 16.1 Hz, CH=CHAr), 7.00 (1H, d, J 3.1 Hz, 2'-H), 7.23-7.39 (7H, m, ArH), and 7.61 (1H, s, ArH); m/z (ES+) 329 (+1)+.

reactant | (E)-4-(1-methylindol-5-yl)ethenylpyridine | CN1C=CC2=CC(=CC=C12)/C=C/C1=CC=NC=C1 | C16H14N2
solvent | MeOH | CO | CH4O
product | (E)-Benzyl-4-(2-(1-methylindol-5-yl)ethenyl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)\C=C\C=1C=C2C=CN(C2=CC1)C | C23H24N2
